US07294616B2
1-Fluoro-2-methyl-4-nitrobenzene (9.75 g), phenol (7.10 g), and of Cs2CO3 (41.0 g) were dissolved in 100 mL of DMF and heated to 120° C. overnight. The reaction mixture was taken up in EtOAc and washed with water and brine, and dried over Na2SO4. The solution was concentrated to provide 2-methyl-4-nitro-1-phenoxybenzene as an oil, which was used in Step B without further purification.

reactant | 1-Fluoro-2-methyl-4-nitrobenzene | 9.75 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | phenol | 7.10 g | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 41.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-methyl-4-nitro-1-phenoxybenzene | CC1=C(C=CC(=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C13H11NO3
